US09428503B2
Intermediate N1: tert-Butyl 8-bromo-1-(oxan-4-yl)-2-oxoimidazo[5,4-c]quinoline-3-carboxylate
Di-tert-butyl dicarbonate (376 mg, 1.72 mmol) was added to a mixture of 8-bromo-1-(oxan-4-yl)-3H-imidazo[4,5-c]quinolin-2-one (300 mg, 0.86 mmol) and triethylamine (0.240 mL, 1.72 mmol) in DCM (20 ml). The resulting solution was stirred at ambient temperature for 4 h then concentrated in vacuo. The crude product was purified by FCC, elation gradient 0 to 60% MeOH in DCM, to afford the desired material (310 mg, 80%) as a white solid. NMR Spectrum: 1H NMR (300 MHz, CDCl3) δ 1.72 (9H, s), 1.81-1.95 (2H, m), 2.92-3.03 (2H, m), 3.57-3.65 (2H, m), 4.26 (2H, dd), 4.89-4.94 (1H, m), 7.82 (1H d), 8.32-8.35 (1H, m), 8.39 (1H, s), 9.49 (1H, m). Mass Spectrum: m/z (ES+)[M+H]+=448.

reactant | Di-tert-butyl dicarbonate | 1.72 mmol, 376 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-bromo-1-(oxan-4-yl)-3H-imidazo[4,5-c]quinolin-2-one | 0.86 mmol, 300 mg | BrC1=CC=2C3=C(C=NC2C=C1)NC(N3C3CCOCC3)=O | C15H14BrN3O2
reactant | triethylamine | 1.72 mmol, 0.240 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 8-bromo-1-(oxan-4-yl)-2-oxoimidazo[5,4-c]quinoline-3-carboxylate | 310 mg, 80% | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3C3CCOCC3)=O)C(=O)OC(C)(C)C | C20H22BrN3O4
